US05190909
1-(4-methoxyphenyl)-3-(4-dimethylaminophenyl)-1-oxo-prop-2-ene (14.1 g, 0.05 mol) was dispersed in methanol (100 ml). Sodium borohydride (5.6 g, 0.15 mol) was added slowly at ambient temperature under vigorous stirring. After completion of the addition of sodium borohydride the reaction mixture was kept stirred at ambient temperature for 5 hours. When the reaction was complete, the reaction mixture was poured into water (500 ml), and extracted with toluene. The toluene was removed using a rotary evaporator leaving an oily residue. The crude product was crystallized from methanol to give 1-(4-methoxyphenyl)-3-(4-dimethylaminophenyl)prop-2-en-1-ol as a white coloured solid in a yield of 4.0 g (28.3% of theory) with a melting point of 137-148° C.

reactant | 1-(4-methoxyphenyl)-3-(4-dimethylaminophenyl)-1-oxo-prop-2-ene | 0.05 mol, 14.1 g | COC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)N(C)C)=O | C18H19NO2
reactant | Sodium borohydride | 0.15 mol, 5.6 g | [BH4-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 1-(4-methoxyphenyl)-3-(4-dimethylaminophenyl)prop-2-en-1-ol | COC1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)N(C)C)O | C18H21NO2
